Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][H:10].[H:8],4.19133603889
[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]#[C:8][H:9]>>[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]#[C:8][H:9],2.35356852303
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6],1.90330546495
[C:1]=[C:2]([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3]>>[C:1][C@:2]([H:3])([O:4][O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.98312619098
[H:1][O:2][O:3][C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.6043859779799998
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.10277221229
[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2](=[O:3])[C:11]([C:7]([C:4]([H:5])[H:6])=[C:8]([H:9])[H:10])([H:12])[H:13],-0.3313233580199999
[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.912790612088
[C:8]=[O:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],-3.9865474139
[H:1][C:2]#[C:3][C@@:4]([O:5][H:6])([O:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.832830830330001
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3][H:4])([H:6])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5][C:7]([H:8])[H:9],5.04403904926
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.6904710767
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],4.62668246026
[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-0.8754285527600001
[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],1.09145211841
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-5.497601776980001
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.12370298
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-0.8751529808299999
[H:1].[O:2]=[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.28110148388
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14],4.61034032201
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.7768381116
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])[H:9],1.32395984918
[C:1]#[C:2][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:3]>>[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.8767716398900003
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],4.913614007860001
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]=[C:9]([H:10])[H:11].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8],1.05458081912
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1[H:12],4.473511898
[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-0.428845886011
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],1.3131737161
